US03962252
Reaction of 2-chlorophenoxazine, 5,5-dimethyl-2-pyrrolidinone and phosphorus oxychloride according to the procedure of Example 1 provides 2-CHLORO-10-(5,5-DIMETHYL-1-PYRROLIN-2-YL)-PHENOXAZINE, m.p. 118°-120°C., from ethanol.

reactant | 2-chlorophenoxazine | ClC1=CC=2NC3=CC=CC=C3OC2C=C1 | C12H8ClNO
reactant | 5,5-dimethyl-2-pyrrolidinone | CC1(CCC(N1)=O)C | C6H11NO
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-CHLORO-10-(5,5-DIMETHYL-1-PYRROLIN-2-YL)-PHENOXAZINE | ClC1=CC=2N(C3=CC=CC=C3OC2C=C1)C1=NC(CC1)(C)C | C18H17ClN2O
